US08383652B2
0.2 g (0.5 mmol) of (Z)-3-(3-butoxy-4-iodophenyl)-2-ethoxyacrylic acid prepared as described in Example 23a and 0.2 g (0.6 mmol) of 3-(1-methyl-3-pentylureido)phenylboronic acid prepared as in Example 24h are dissolved in 4 mL of a 75/25 solution of ethylene glycol dimethyl ether/water. After addition of 0.2 mL (1.2 mmol) of aqueous 2M potassium carbonate solution, 0.004 mg (0.005 mmol) of dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium is added and the reaction medium is heated at 80° C. for 18 hours. After addition of water, the reaction medium is extracted with ethyl acetate. The organic phase is washed with water, dried over magnesium sulfate, filtered and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with an 8/2, 7/3 and then 5/5 heptane/ethyl acetate mixture. 50 mg (20%) of (Z)-3-[2-butoxy-3′-(1-methyl-3-pentylureido)biphenyl-4-yl]-2-ethoxyacrylic acid are obtained in the form of a beige-colored solid with a melting point of 59° C.

reactant | (Z)-3-(3-butoxy-4-iodophenyl)-2-ethoxyacrylic acid | 0.5 mmol, 0.2 g | C(CCC)OC=1C=C(C=CC1I)\C=C(\C(=O)O)/OCC | C15H19IO4
reactant | 3-(1-methyl-3-pentylureido)phenylboronic acid | 0.6 mmol, 0.2 g | CN(C(=O)NCCCCC)C=1C=C(C=CC1)B(O)O | C13H21BN2O3
reactant | potassium carbonate | 2M | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | ethylene glycol dimethyl ether water | COCCOC.O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.005 mmol, 0.004 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (Z)-3-[2-butoxy-3′-(1-methyl-3-pentylureido)biphenyl-4-yl]-2-ethoxyacrylic acid | 50 mg, 20% | C(CCC)OC1=C(C=CC(=C1)\C=C(\C(=O)O)/OCC)C1=CC(=CC=C1)N(C(=O)NCCCCC)C | C28H38N2O5
